US04820722
5-[(4-((4-Acetyl-3-hydroxy-2-propylphenyl)methoxy)phenyl)methyl]-1-(3-(dimethylamino)propyl)-1H-tetrazole
5-[(4-((4-Acetyl-3-hydroxy-2-propylphenyl)methoxy)phenyl)methyl]-1-(3-bromopropyl)-1H-tetrazole (2.0 g, 0.004 mol) was added to acetonitrile (40 ml). Dimethylamine (large excess) was cooled in the unopened reagent bottle then added to the acetonitrile solution. The mixture was cooled and stirred at 0° C. for 5 hours then concentrated in vacuo. Water was added to the concentrate and the aqueous solution was extracted with ethyl acetate. The ethyl acetate layers were combined, washed with water, dried over sodium sulfate, filtered, and concentrated to dryness in vacuo. The residue was chromatographed by HPLC (preparatory-scale, silica gel column, eluted isocratically with a mixture of 9.5:0.5% methylene chloride:methanol plus 0.5% diethylamine added) to yield 1.4 g, 77.8% yield of the title product as a yellow oil; n.m.r. (300 MHz, CDCl3) δ: 1.0 (t, 3H); 1.6 (m, 2H); 1.9 (m, 2H); 2.1 (s, 6H; m, 2H); 2.6 (s, 3H); 2.65 (t, 2H); 4.2 (t, 2H); 4.3 (s, 2H); 5.1 (s, 2H); 6.9 (d, 2H); 7.0 (d, 1H); 7.15 (d, 2H); 7.6 (d, 1H); 12.7 (s, 1H).

reactant | 5-[(4-((4-Acetyl-3-hydroxy-2-propylphenyl)methoxy)phenyl)methyl]-1-(3-bromopropyl)-1H-tetrazole | 0.004 mol, 2.0 g | C(C)(=O)C1=C(C(=C(C=C1)COC1=CC=C(C=C1)CC1=NN=NN1CCCBr)CCC)O | C23H27BrN4O3
reactant | Dimethylamine | CNC | C2H7N
solvent | acetonitrile | C(C)#N | C2H3N
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 5-[(4-((4-Acetyl-3-hydroxy-2-propylphenyl)methoxy)phenyl)methyl]-1-(3-(dimethylamino)propyl)-1H-tetrazole | 1.4 g, 77.8% yield | C(C)(=O)C1=C(C(=C(C=C1)COC1=CC=C(C=C1)CC1=NN=NN1CCCN(C)C)CCC)O | C25H33N5O3
